US07432284B2
NaH (0.32 g of a 60% dispersion in mineral oil, 8.0 mmol) was added to an ice-cold solution of 2-butyl-6-methoxy-3,4-dihydro-1(2H)-naphthalenone (1.55 g, 6.7 mmol) in anhydrous DMF (30 mL). The mixture was purged with N2 and stirred at 0-5° C. for 45 minutes. Allyl iodide (0.91 mL, 10.0 mmol) was added and, after a few minutes, the cooling bath was removed and the mixture was stirred overnight at room temperature. Additional NaH (0.16 g of a 61.1% dispersion in mineral oil, 4.1 mmol) was added and the mixture was stirred at room temperature for 15 minutes. Allyl iodide (0.46 mL, 5.0 mmol) was added and the mixture was stirred at room temperature for 24 hours. The mixture was partitioned between EtOAc and water, and the aqueous phase was back-extracted with several portions of EtOAc. The combined organics were washed with brine, dried over MgSO4, filtered, and concentrated under vacuum. The residue was purified by Biotage™ (Charlottesville, Va.) flash chromatography on a 40M (4×15 cm) silica gel column, eluting with 1% to 4% EtOAc in hexane, to afford 2-allyl-2-butyl-6-methoxy-3,4-dihydro-1(2H)-naphthalenone as an oil.

reactant | NaH | [H-].[Na+]
reactant | 2-butyl-6-methoxy-3,4-dihydro-1(2H)-naphthalenone | 6.7 mmol, 1.55 g | C(CCC)C1C(C2=CC=C(C=C2CC1)OC)=O | C15H20O2
reactant | Allyl iodide | 10.0 mmol, 0.91 mL | C(C=C)I | C3H5I
reactant | Allyl iodide | 5.0 mmol, 0.46 mL | C(C=C)I | C3H5I
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-allyl-2-butyl-6-methoxy-3,4-dihydro-1(2H)-naphthalenone | C(C=C)C1(C(C2=CC=C(C=C2CC1)OC)=O)CCCC | C18H24O2
